US05616610
c) (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran
(R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran (0.53 g, 1.6 mmol) was dissolved in 47% HBr (15 mL) and stirred at 120° C. for 1.5 h. The solution was cooled by adding ice and alkalised by 14M ammonia. Extractive work-up gave 0.5 g of the title compound as a slightly brown oil. IR contained a typical OH-band at 3654 cm-1.

reactant | (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-methoxy-3,4-dihydro-2H-1-benzopyran | 1.6 mmol, 0.53 g | C1(CCCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)OC | C19H26FNO2
reactant | ammonia | 14M | N | H3N
solvent | HBr | 15 mL | Br | BrH
product | (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-hydroxy-3,4-dihydro-2H-1-benzopyran | 0.5 g | C1(CCCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)O | C18H24FNO2
